US08236319B2
(E)-Methyl 4-azidobut-2-enoate
To the solution of NaN3 (2.80 g, 43.01 mmol) in 100 ml of DMF at −20° C. was added methyl 4-bromocrotonate (5.00 ml, 85%, 36.10 mmol). After stirred at −20° C. for 30 min, the mixture was stirred at 0° C. for 4 h, evaporated, suspended with EtAc/Hexane (1:1), filtered, evaporated and chromatographic purification on SiO2 column eluted with EtAc/Hexane (1:25 to 1:10) to afford HRMS for 4.08 g (80%) of the title product. 1H NMR (CDCl3) 6.88 (m, 1H), 6.06 (ddd, 1H, J−=1.7, 3.4, 15.6 Hz), 3.97 (dd, 2H, J=1.2, 4.96 Hz), 3.73 (s, 3H); 13C NMR 166.23, 140.86, 123.49, 51.95, 51.36; ESI MS m/z+ 182.5 (M+Na+H2O); HRMS m/z+ (C5H7N3O2+H2O+Na) calcd 182.0542, found 182.0548.

reactant | NaN3 | 43.01 mmol, 2.80 g | [N-]=[N+]=[N-].[Na+]
reactant | methyl 4-bromocrotonate | 36.10 mmol, 5.00 ml | BrC/C=C/C(=O)OC | C5H7BrO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | (E)-Methyl 4-azidobut-2-enoate | 4.08 g, 80% | N(=[N+]=[N-])C/C=C/C(=O)OC | C5H7N3O2
